US06972288B1
Ethyl [4-(1,1-Dimethyl-2-oxo-ethyl)-piperazin-1-yl]-acetate
A solution of 100 g 2-bromo-2-methyl-propionaldehyde in 20 ml of ethanol is added dropwise to a mixture of 25.0 g N-[(ethoxycarbonyl)methyl]-piperazine in 80 ml of ethanol at room temperature. The resulting mixture is stirred for 72 hours, concentrated in vacuo, and submitted directly to column chromatography on silica gel with methylene chloride/methanol (95:5 to 80:20) to give the title compound as a yellow oil. Yield: 10.0 g (62% of theory), Rf value: 0.60 (silica gel, methylene chloride/methanol=9:1) Mass spectrum (ESI*): m/z=241 [M−H]*

reactant | 2-bromo-2-methyl-propionaldehyde | 100 g | BrC(C=O)(C)C | C4H7BrO
reactant | N-[(ethoxycarbonyl)methyl]-piperazine | 25.0 g | C(C)OC(=O)CN1CCNCC1 | C8H16N2O2
solvent | ethanol | 20 ml | C(C)O | C2H6O
solvent | ethanol | 80 ml | C(C)O | C2H6O
product | Ethyl [4-(1,1-Dimethyl-2-oxo-ethyl)-piperazin-1-yl]-acetate | CC(C=O)(C)N1CCN(CC1)CC(=O)OCC | C12H22N2O3
